US08431575B2
To a stirring solution of 4-[6-butyl-5-(3-cyano-4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.025 g, 0.046 mmol) in DCM (2.0 mL), 4.0 M HCl in dioxane (2.0 mL) was added and stirring continued for 30 min. Solvent evaporated, resulting solid was washed with ether, dried to get 5-[3-Butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzonitrile dihydrochloride (22 mg).

reactant | 4-[6-butyl-5-(3-cyano-4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.046 mmol, 0.025 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C#N)CCCC | C31H42N4O4
reactant | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 5-[3-Butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzonitrile dihydrochloride | 22 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C=1C=CC(=C(C#N)C1)OC1CCCCC1)OC1CCNCC1 | InChI=1S/C26H34N4O2.2ClH/c1-2-3-9-24-23(17-26(30-29-24)32-22-12-14-28-15-13-22)19-10-11-25(20(16-19)18-27)31-21-7-5-4-6-8-21;;/h10-11,16-17,21-22,28H,2-9,12-15H2,1H3;2*1H
